* D:\RepositorioGitHub\ProyectoFinal\Prototipos\Boost #1\Simulacion\LTSpice\boost_converter_1.asc
C1 N001 0 1µ
L1 N001 Drain 1.33m Ipk=0 Rser=0 Rpar=0 Cpar=0
M1 Drain N003 0 0 IRF9410
C2 Output 0 15.27µ
D1 Drain Output 1N5817
R1 Output 0 47
V1 N001 0 12
V2 N004 0 PULSE(3.3 0 0 0 0 29u 66.67u)
D2 0 Drain UPSC600
R2 N002 0 15
C3 Drain N002 260p
R4 N003 N001 100
Q1 N003 N005 0 0 2N2222
R5 N005 N004 100
R3 N005 0 10k
.model D D
.lib C:\Users\aleal\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\aleal\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\aleal\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 20m
.backanno
.end
